US07642275B2
A solution of 4-(2-Oxo-2,3-dihydro-benzoimidazol-1-ylmethyl)-benzoic acid methyl ester (0.25 mmol) in dioxane (1 mL) was treated with aqueous LiOH (1 M, 1.0 mL). After stirring at 23° C. for 2 h, the reaction was neutralized with aqueous HCl (1 M, 2.0 mL) and the resulting solid was isolated by filtration. The filter cake was rinsed with water and allowed to dry in vacuo to yield 4-(2-Oxo-2,3-dihydro-benzoimidazol-1-ylmethyl)-benzoic acid.

reactant | 4-(2-Oxo-2,3-dihydro-benzoimidazol-1-ylmethyl)-benzoic acid methyl ester | 0.25 mmol | COC(C1=CC=C(C=C1)CN1C(NC2=C1C=CC=C2)=O)=O | C16H14N2O3
reactant | LiOH | 1 M, 1.0 mL | [Li+].[OH-]
reactant | HCl | 1 M, 2.0 mL | Cl | ClH
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
product | 4-(2-Oxo-2,3-dihydro-benzoimidazol-1-ylmethyl)-benzoic acid | O=C1NC2=C(N1CC1=CC=C(C(=O)O)C=C1)C=CC=C2 | C15H12N2O3
